US07378414B2
Pentanoylsulfamoyl Chloride
n-Pentanoic acid (1.02 g, 10 mmol) was added slowly dropwise to chlorosulfonyl isocyanate (1.42 g, 10 mmol), with ice/water bath cooling as required to maintain gentle gas evolution. After the addition was complete, the residue was taken up in benzene (10 mL) and the mixture concentrated in vacuo to provide the title compound (2.0 g, quantitative) as a crystalline, hygroscopic solid.

reactant | n-Pentanoic acid | 10 mmol, 1.02 g | C(CCCC)(=O)O | C5H10O2
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.42 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | Pentanoylsulfamoyl Chloride | 2.0 g | C(CCCC)(=O)NS(=O)(=O)Cl | C5H10ClNO3S
